US04916470
4-t-butylphthalonitrile was prepared by fitting a 500 milliliter three-necked flask with a nitrogen inlet, a 100 milliliter pressure equalizing funnel, and a stopper, placing the flask in an ice bath, and charging the flask with 60 grams (0.2713 mole) of 4-t-butylphthalamide and 400 milliliters of pyridine. The resulting mixture was kept under a constant flow of nitrogen. Phosphorus oxychloride (49.7 milliliters, 0.5426 mole) was placed in the dropping funnel and added slowly to the pyridine solution to keep the temperature at about 4° C. The reaction was magnetically stirred for 4 hours and the mixture was then poured into a beaker containing 200 milliliters of crushed ice. Water was added until the total volume was 1,600 milliliters and a light brown solid was produced. The solid was removed by suction filtration, resulting in 31.24 grams (0.1696 mole) of 4-t-butylphthalonitrile, which exhibited a melting point of 58° to 59° C. The identity of the 4-t-butylphthalonitrile product was confirmed by IR spectrum.

reactant | 4-t-butylphthalamide | 0.2713 mole, 60 grams | C(C)(C)(C)C=1C=C(C(C(=O)N)=CC1)C(=O)N | C12H16N2O2
reactant | pyridine | 400 milliliters | N1=CC=CC=C1 | C5H5N
reactant | Phosphorus oxychloride | 0.5426 mole, 49.7 milliliters | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | Water | O | H2O
product | 4-t-butylphthalonitrile | 0.1696 mole, 31.24 grams | C(C)(C)(C)C=1C=C(C(C#N)=CC1)C#N | C12H12N2
